US05061399
6-n-Octoxynaphthalene-2-carboxylic acid
6-Hydroxynaphthalene-2-carboxylic acid (39.8 g), 1-bromooctane (61.3 g), potassium hydroxide (23.7 g), ethanol (900 ml) and water (120 ml) were stirred and refluxed for 16 hours. 10% Aqueous potassium hydroxide (200 ml) was added and refluxing was continued for a further 2 hours, when the solution was poured into water (5 liter) and acidified to ph 1. The solid was filtered, washed with water, dried and recrystallised from acetic acid to give the product (49.0 g, 77.2% theory) as a white crystalline solid, mpt 150°-153° C. (98.2% pure by hplc).

reactant | 6-Hydroxynaphthalene-2-carboxylic acid | 39.8 g | OC=1C=C2C=CC(=CC2=CC1)C(=O)O | C11H8O3
reactant | 1-bromooctane | 61.3 g | BrCCCCCCCC | C8H17Br
reactant | potassium hydroxide | 23.7 g | [OH-].[K+]
reactant | ethanol | 900 ml | C(C)O | C2H6O
reactant | potassium hydroxide | 200 ml | [OH-].[K+]
solvent | water | 5 liter | O | H2O
solvent | water | 120 ml | O | H2O
product | 6-n-Octoxynaphthalene-2-carboxylic acid | C(CCCCCCC)OC=1C=C2C=CC(=CC2=CC1)C(=O)O | C19H24O3
